US07745641B2
7-Amino-4-bromo-3-hydroxyisoindolinone (3.11 g, 12.8 mmol) was dissolved in nitromethane (125 mL), and the solution was added with trifluoroacetic acid (9.90 mL, 128 mmol) and triethylsilane (4.10 mL, 25.6 mmol), followed by stirring at room temperature for 2 hours. The reaction mixture was added with water, extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogencarbonate solution and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by slurry using chloroform to obtain 7-amino-4-bromoisoindolinone (2.16 g, yield 74%).

reactant | 7-Amino-4-bromo-3-hydroxyisoindolinone | 12.8 mmol, 3.11 g | NC=1C=CC(=C2C(NC(C12)=O)O)Br | C8H7BrN2O2
reactant | trifluoroacetic acid | 128 mmol, 9.90 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 25.6 mmol, 4.10 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | water | O | H2O
solvent | nitromethane | 125 mL | [N+](=O)([O-])C | CH3NO2
product | 7-amino-4-bromoisoindolinone | 2.16 g, yield 74% | NC=1C=CC(=C2CNC(C12)=O)Br | C8H7BrN2O
